US07553849B2
A mixture of methyl 3-aminothiophene-2-carboxylate (63 mmol, 10.0 g) and ethyl chloroformate (50 ml) was refluxed for 2 hrs and then evaporated to dryness. The residue was dissolved in ethanol (130 ml) and sodium hydroxide (NaOH, 65 mmol, 3.84 g) in water (35 ml) was added. After stirring at room temperature for 48 hrs the mixture was acidified with 1M HCl and diluted with water. The precipitate was collected, washed with water, dried under vacuum and recrystallized from toluene/heptane resulting in 3-ethoxycarbonylamino-thiophene-2-carboxylic acid, (10.2 g, 73%). This acid, (23.2 nanol, 5.0 g), and phosphorus tribromide (12 mmol, 1.14 ml) were dissolved in 1,4-dioxane (50 ml). The mixture was stirred at 100° C. for 2 hrs and then cooled before it was concentrated on a rotary evaporator. The precipitate formed upon addition of toluene was isolated by filtration giving 1H-thieno[3,2-d][1,3]oxazine-2,4-dione (3.96. g, 100%). This intermediate (20.6 mmol, 3.5 g) was dissolved in DMA (40 ml) and cooled on an ice-bath. NaH (22.7 mmol, 780 mg) was added followed by addition of methyl iodide (25 mmol, 1.6 ml). The mixture was stirred at room temperature overnight and then diethyl malonate (25 mmol, 3.85 ml) and NaH (22.7 mmol, 780 mg) were added. After the addition the mixture was heated at 85° C. for 2 hrs and then the mixture was cooled. Water was added and the mixture was acidified with 1 M HCl and extracted with chloroform. The extract was dried, concentrated, and chromatographed (SiO2, chloroform/methanol/acetic acid; 40/1/0.1) to yield the title compound (1.4 g, 26%).

reactant | methyl 3-aminothiophene-2-carboxylate | 63 mmol, 10.0 g | NC1=C(SC=C1)C(=O)OC | C6H7NO2S
reactant | ethyl chloroformate | 50 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium hydroxide | 65 mmol, 3.84 g | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
reactant | phosphorus tribromide | 12 mmol, 1.14 ml | P(Br)(Br)Br | Br3P
solvent | water | 35 ml | O | H2O
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1H-thieno[3,2-d][1,3]oxazine-2,4-dione | 100% | N1C(OC(C2=C1C=CS2)=O)=O | C6H3NO3S
